Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Clavulanic Acid
 
Attending: ___.
 
Chief Complaint:
ERCP
 
Major Surgical or Invasive Procedure:
ERCP

 
History of Present Illness:
Mr. ___ is an ___ year old man with afib on apixaban, HFpEF,
PVD with remote bypass graft, CKD, who was admitted last month
with cholangitis and underwent ERCP with stent placement,
presenting for scheduled ERCP and admitted post-procedurally. 
His
course during the prior admission was also notable for nocturnal
hypoxia that improved with diuresis, and he recently followed up
with Dr. ___ cardiologist, who has increased his Lasix
slightly. He was also seen in surgery clinic by Dr. ___ it
was felt that pending a clear cholangiogram on follow-up ERCP,
surgery would likely be deferred. He has been holding his home
apixaban for 2 days prior to the procedure. Today he underwent
ERCP with extraction of stones and sphincterotomy, as well as
stent removal. Per report he received 1.5 L ___ 
and
received ciprofloxacin, although no further antibiotics or 
fluids
were recommended after the procedure. Following the procedure,
the patient reports feeling good, with no abdominal pain,
dyspnea, CP, or other symptoms. When his recent Lasix titration
and edema were discussed, he states he has never had dyspnea 
from
volume overload, but only leg swelling. Notes his ___ edema
improves during the night and worsens during the day.
 
Past Medical History:
- Paroxysmal AFib, on Eliquis and amiodarone.
- Peripheral vascular disease s/p Aortobifemoral bypass graft
approximately ___ years ago.
- Right bundle branch block.
- Hypertension.
- Hyperlipidemia.
- Chronic kidney disease (baseline creatinine seems to be
around 1.6 and 1.7).
- PTSD from ___ War.
       
PAST SURGICAL HISTORY:
1. Aortobifemoral bypass graft approximately ___ years ago.
2. Ventral incisional hernia repair.
3. Left hip replacement.
4. Excision of basal cell carcinoma from face.
 
Social History:
___
Family History:
Positive for hypertension and heart disease.
 
Physical Exam:
Admission Physical Exam:
========================
Vital signs:
98.1 PO 142 / 57 68 20 94 RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma.
MMMs
CV: RRR
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
slight TTP bilateral upper abdomen.  Bowel sounds present.
GU: No suprapubic tenderness
MSK: No swollen or erythematous joints
SKIN: No rashes or ulcerations noted
EXTR: wwp, moderate bilateral pitting edema
NEURO: Alert, interactive, gaze conjugate with EOMI, speech
fluent, motor function grossly intact/symmetric
PSYCH: pleasant, appropriate affect

Discharge Physical Exam:
========================
Vital signs: see E flowsheets
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma.
MMMs
CV: RRR
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
slight TTP bilateral upper abdomen.  Bowel sounds present.
GU: No suprapubic tenderness
MSK: No swollen or erythematous joints
SKIN: No rashes or ulcerations noted
EXTR: wwp, mild bilateral pitting edema
NEURO: Alert, interactive, gaze conjugate with EOMI, speech
fluent, motor function grossly intact/symmetric
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
Labs:
=====
___ 06:45AM BLOOD WBC-7.2 RBC-3.84* Hgb-12.6* Hct-38.3* 
MCV-100* MCH-32.8* MCHC-32.9 RDW-14.7 RDWSD-54.1* Plt ___
___ 06:45AM BLOOD ___ PTT-31.6 ___
___ 06:45AM BLOOD Glucose-83 UreaN-15 Creat-1.4* Na-143 
K-4.3 Cl-101 HCO3-26 AnGap-16
___ 06:45AM BLOOD ALT-16 AST-23 AlkPhos-102 TotBili-1.0
___ 06:45AM BLOOD Calcium-8.7 Phos-2.9 Mg-1.___ year old man with afib on apixaban, HFpEF, PVD with remote 
bypass graft, CKD, who was admitted last month with cholangitis 
and underwent ERCP with stent placement, who presented for 
scheduled ERCP and was admitted post-procedurally after ERCP 
with
stent removal, sphincterotomy, and removal of stones/sludge. 

# Choledocholithiasis s/p ERCP: ERCP with multiple stones and 
sludge. He underwent stent removal, sphincterotomy, and removal 
of stones and sludge. Procedure was uncomplicated. His apixaban 
was held prior to procedure and will be held for 48 hours post 
procedure (resume evening of ___.
He previously saw surgery as an outpatient, who recommended 
possible CCY if stones were found on repeat ERCP. ACS planned to 
see patient during current admission but he declined to wait to 
speak to them. Explained the benefit of pursuing surgery at this 
time given anticoagulation was already on hold. Also explained 
the risk of stroke every time his apixaban is held, which it 
would need to be for surgery. He understood these risks but did 
not want to wait to speak to surgery or pursue surgery at this 
time. He will follow up with Dr. ___ in clinic as an 
outpatient.
He was tolerating a regular diet at time of discharge. 

#Afib: continued home propranolol and amiodarone. Held apixaban 
as above. He can restart apixaban on the evening of ___

#HTN: continued home propranolol, lisinopril, amlodipine

#HFpEF: held home Lasix ___. Restarted at 
discharge

#BPH: continued home tamsulosin 

# Chronic kidney disease  stage III. 
baseline 1.6-1.8: continue home calcitriol

# PVD: continued home aspirin 81mg, atorvastatin 20mg 

Transitional Issues:
====================
- apixaban held ___, can restart on evening of 
___
- patient to follow up with Dr. ___ surgery as an 
outpatient for likely cholecystectomy
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amiodarone 100 mg PO DAILY 
2. Apixaban 2.5 mg PO BID 
3. Aspirin 81 mg PO DAILY 
4. Atorvastatin 20 mg PO QPM 
5. Calcitriol 0.25 mcg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Senna 8.6 mg PO DAILY:PRN Constipation - First Line 
8. Tamsulosin 0.4 mg PO QHS 
9. Lisinopril 20 mg PO DAILY 
10. TraZODone 12.5 mg PO QHS:PRN insomnia 
11. Propranolol 10 mg PO BID 
12. amLODIPine 5 mg PO DAILY 
13. Furosemide 10 mg PO DAILY 

 
Discharge Medications:
1.  Amiodarone 100 mg PO DAILY  
2.  amLODIPine 5 mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 20 mg PO QPM  
5.  Calcitriol 0.25 mcg PO DAILY  
6.  Furosemide 10 mg PO DAILY  
7.  Lisinopril 20 mg PO DAILY  
8.  Multivitamins 1 TAB PO DAILY  
9.  Propranolol 10 mg PO BID  
10.  Senna 8.6 mg PO DAILY:PRN Constipation - First Line  
11.  Tamsulosin 0.4 mg PO QHS  
12.  TraZODone 12.5 mg PO QHS:PRN insomnia  
13. HELD- Apixaban 2.5 mg PO BID  This medication was held. Do 
not restart Apixaban until tomorrow evening (___)

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Choledocholithiasis
Secondary:
Chronic diastolic CHF
Atrial fibrillation
CKD
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You came in to have an ERCP procedure. During the procedure they 
removed your stent. They also found many stones in your bile 
ducts. It will be very important to follow up with Dr. ___ as 
an outpatient, since you probably need to have your gallbladder 
removed.

You can restart your Eliquis (apixaban) tomorrow evening, ___. 
Please do not take an apixaban tonight or tomorrow morning.

It was a pleasure taking care of you, and we are happy that 
you're feeling better!
 
Followup Instructions:
___